US07514566B2
2-Aminothiazol-4-yl-methanol (17 g, 131 mmol) and acetic anhydride (927 g, 261 mmol) were mixed in 100 mL dioxane in a 500 mL round bottom flask. The mixture was heated at reflux for 1 hour. After the solvent was evaporated, 300 mL saturated sodium bicarbonate was added to the flask. The mixture was extracted twice with 200 mL EtOAc. The combined organic layers were washed with brine and dried over sodium sulfate. After evaporating the solvent, the remaining residue was washed with hexane and ether three times each. This procedure provided 10 g of (2-acetamidothiazol-4-yl)methyl acetate (yield=30%). LCMS (API-ES) m/z (%) 215.2 (100%, M++H).

reactant | 2-Aminothiazol-4-yl-methanol | 131 mmol, 17 g | NC=1SC=C(N1)CO | C4H6N2OS
reactant | acetic anhydride | 261 mmol, 927 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | (2-acetamidothiazol-4-yl)methyl acetate | 10 g, yield=30% | C(C)(=O)OCC=1N=C(SC1)NC(C)=O | C8H10N2O3S
